US07687491B2
(25e) 1-({5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylic acid
The title compound (0.10 g) was synthesized in a yield of 71% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylate (0.15 g, 0.32 mmol) that was obtained in Example 25 (25d) and a 1 N aqueous solution of sodium hydroxide (0.96 mL, 0.96 mmol).

reactant | methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylate | 0.32 mmol, 0.15 g | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1CC)CN1CC(C1)C(=O)OC | C25H29ClN4O3
reactant | sodium hydroxide | 0.96 mmol, 0.96 mL | [OH-].[Na+]
product | 1-({5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylic acid | 0.10 g, yield of 71% | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1CC)CN1CC(C1)C(=O)O | C24H27ClN4O3
